US04405778
A solution, prepared at 30° C., of 7β-bromoacetylamino-3-methoxy-3-cephem-4-carboxylic acid (about 0.15 mmol), prepared according to the process described in Example 43, in 10 ml of ethanol and 0.3 ml of water is mixed with a solution of 0.03 g of sodium azide in 0.5 ml of water. The reaction mixture is stirred for 15 hours at room temperature with exclusion of light and is then worked up according to the process described in Example 41. 7β-Azidoacetylamino-3-methoxy-3-cephem-4-carboxylic acid is thus obtained, which in a thin layer chromatogram (silica gel; system: n-butanol/pyridine/acetic acid/water, 42:24:4:30) shows an Rf value of 0.40; ultraviolet absorption spectrum (in ethanol): λmax at 264 mμ; infrared absorption spectrum (in mineral oil): characteristic bands at 4.65μ and 5.64μ.

reactant | 7β-bromoacetylamino-3-methoxy-3-cephem-4-carboxylic acid | about 0.15 mmol | BrCC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | C10H11BrN2O5S
reactant | sodium azide | 0.03 g | [N-]=[N+]=[N-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 0.5 ml | O | H2O
solvent | water | 0.3 ml | O | H2O
product | 7β-Azidoacetylamino-3-methoxy-3-cephem-4-carboxylic acid | N(=[N+]=[N-])CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OC)C(=O)O)C1=O | C10H11N5O5S
